US07517992B2
d) 5-Methoxy-1a,2,3,7b-tetrahydro-1H-cyclopropa[a]naphthalene-1-carboxylic acid
Ethyl 5-methoxy-1a,2,3,7b-tetrahydro-1H-cyclopropa[a]naphthalene-1-carboxylate (0.2 g, 0.8 mmol) was dissolved in 2 ml of methanol and the solution of sodium hydroxide (0.2 g, 50 mmol) in 2 ml of water was added to the reaction mixture and stirred at ambient temperature overnight. The extraction of basic reaction mixture into hexane showed that no starting material present. The reaction mixture was acidified with excess of 3M HCl solution (pH=1), and extracted into ethylacetate (3×15 ml). The combined extracts were washed with water and brine, dried over Na2SO4 and concentrated by rotary evaporation to give 0.1 5 g of mixture of cis/trans acids as white solid.

reactant | Ethyl 5-methoxy-1a,2,3,7b-tetrahydro-1H-cyclopropa[a]naphthalene-1-carboxylate | 0.8 mmol, 0.2 g | COC=1C=C2CCC3C(C2=CC1)C3C(=O)OCC | C15H18O3
reactant | sodium hydroxide | 50 mmol, 0.2 g | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 5-Methoxy-1a,2,3,7b-tetrahydro-1H-cyclopropa[a]naphthalene-1-carboxylic acid | COC=1C=C2CCC3C(C2=CC1)C3C(=O)O | C13H14O3
